US05932743
Step 2: 2-Butyl-3-(5-methoxy-3,4-dihydro-naphthalen-1-yl)-1H-indole-6-carboxylic Acid
The title compound was prepared according to the procedure outlined in Example 7, employing 4-(1-hexynyl)-3-trifluoroacetamidobenzoic acid on Wang resin (prepared according to Example 1) and 5-methoxy-3,4-dihydro-naphthalen-1-yl trifluoromethanesulfonate; 1H NMR (DMSO-d6) δ 0.80 (t, 3 H), 1.22 (m, 2 H), 1.60 (m, 2 H), 2.39 (m, 2 H), 2.70 (m, 4 H), 3.80 (s, 3 H), 6.02 (t, 1 H), 6.32 (d, 1 H), 6.85 (d, 1 H), 6.98 (m, 1 H), 7.08 (d, 1 H), 7.50 (d, 1 H), 7.95 (s, 1 H), 11.40 (s, 1 H).

reactant | 4-(1-hexynyl)-3-trifluoroacetamidobenzoic acid | C(#CCCCC)C1=C(C=C(C(=O)O)C=C1)NC(C(F)(F)F)=O | C15H14F3NO3
reactant | 5-methoxy-3,4-dihydro-naphthalen-1-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CCCC2=C(C=CC=C12)OC)(F)F | C12H11F3O4S
product | 2-Butyl-3-(5-methoxy-3,4-dihydro-naphthalen-1-yl)-1H-indole-6-carboxylic Acid | C(CCC)C=1NC2=CC(=CC=C2C1C1=CCCC2=C(C=CC=C12)OC)C(=O)O | C24H25NO3
